US05114944
2-(4-Methylphenyl)pyrazolo[1,5-a]pyrimidine-3-acetic acid
A stirred mixture of 32.5 g (0.11 mole) of 2-(4-methylphenyl)pyrazolo[1,5-a]pyrimidine-3-acetic acid ethyl ester and 4.5 g (0.11 mole) of sodium hydroxide in 150 mL of 190 ethanol was heated until the material dissolved. After cooling, the reaction mixture was diluted with an equal volume of water, heated until a clear dark brown solution was obtained, then cooled by stirring overnight. The reaction mixture was diluted with an additional 300 mL of water and acidified to pH 6 with glacial acetic acid. The milky solution yielded 27 g (90%) of brown crystalline product, mp 170°-171°. An analytical sample recrystallized from acetonitrile-water yielding pale yellow crystals, mp. 172°-173° C.

reactant | 2-(4-methylphenyl)pyrazolo[1,5-a]pyrimidine-3-acetic acid ethyl ester | 0.11 mole, 32.5 g | C(C)OC(CC=1C(=NN2C1N=CC=C2)C2=CC=C(C=C2)C)=O | C17H17N3O2
reactant | sodium hydroxide | 0.11 mole, 4.5 g | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | water | 300 mL | O | H2O
product | 2-(4-Methylphenyl)pyrazolo[1,5-a]pyrimidine-3-acetic acid | 27 g, 90% | CC1=CC=C(C=C1)C1=NN2C(N=CC=C2)=C1CC(=O)O | C15H13N3O2
